US05856326
Step D: 2(S)-Benzyl-1-tert-butoxycarbonyl-4-(1-naphthoyl)piperazine
The title compound was prepared according to the procedure described for Example 1, Step A except using 2(S)-benzyl-1-tert-butoxycarbonylpiperazine (0.292 g, 1.06 mmol), 2,3-dimethylbenzoic acid (0.159 g, 1.06 mmol), HOBT (0.157 g, 1.02 mmol), EDC.HCl (0.213 g, 1.11 mmol) and triethylamine to adjust the pH to 7. The title compound was obtained as a thick oil. 1HNMR (DMSO-d6, 300 MHz) δ 7.15 (2H, m), 6.06 (1H,m), 4.42 (1H,m), 3.6-4.2 (2H, m), 2.7-3.24 (4H, m), 2.24 (3H, s), 2.03-2.20 (3H, 4s), 1.10-1.6 (15H, m), 0.72-1.00 (3H, m).

reactant | 2(S)-benzyl-1-tert-butoxycarbonylpiperazine | 1.06 mmol, 0.292 g | C(C1=CC=CC=C1)[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | 2,3-dimethylbenzoic acid | 1.06 mmol, 0.159 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | HOBT | 1.02 mmol, 0.157 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.11 mmol, 0.213 g | CCN=C=NCCCN(C)C.Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2(S)-Benzyl-1-tert-butoxycarbonyl-4-(1-naphthoyl)piperazine | C(C1=CC=CC=C1)[C@@H]1N(CCN(C1)C(=O)C1=CC=CC2=CC=CC=C12)C(=O)OC(C)(C)C | C27H30N2O3
